US08183272B2
(13a) Ethyl (4E)-5-(2-{(1R)-1-[(2R)-oxiran-2-yl methoxy]ethyl}phenyl)pent-4-enoate
By using (2R)-2-{[(1R)-1-(2-bromo phenyl)ethoxy]methyl}oxirane described in WO 2004/094362 and ethyl pent-4-enoate, the reaction was carried out in the same manner as the method described in Example 4(4c) to give the title compound as a colorless oily substance (yield 82%).

reactant | (2R)-2-{[(1R)-1-(2-bromo phenyl)ethoxy]methyl}oxirane | BrC1=C(C=CC=C1)[C@@H](C)OC[C@@H]1OC1 | C11H13BrO2
reactant | ethyl pent-4-enoate | C(CCC=C)(=O)OCC | C7H12O2
product | Ethyl (4E)-5-(2-{(1R)-1-[(2R)-oxiran-2-yl methoxy]ethyl}phenyl)pent-4-enoate | yield 82% | O1[C@H](C1)CO[C@H](C)C1=C(C=CC=C1)/C=C/CCC(=O)OCC | C18H24O4
